US06890947B2
A mixture of 3.9 g 2-methyl-1H-indole-5-carbonitrile [Journal of Organic Chemistry (1994), 9(21), 6372-7], 7.22 g sodium hypophosphite monohydrate and 2.60 g Raney-Nickel in 110 ml acetic acid (50%)/pyridine 1:1 was stirred at 45° C. for 75 min. After cooling down to room temperature, the reaction mixture was filtered (dicalite), then the filtrate poured into ice-water and extracted 3 times with EtOAc. The combined organic phases were washed with water, dried over magnesium sulfate and evaporated. The residue was crystallized from n-heptane to give 3.19 g of 2-methyl-1H-indole-5-carbaldehyde as light red solid.

reactant | 2-methyl-1H-indole-5-carbonitrile | 3.9 g | CC=1NC2=CC=C(C=C2C1)C#N | C10H8N2
reactant | sodium hypophosphite monohydrate | 7.22 g | O.[PH2](=O)[O-].[Na+]
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | acetic acid | 110 ml | C(C)(=O)O | C2H4O2
catalyst | Raney-Nickel | 2.60 g | [Ni] | Ni
product | 2-methyl-1H-indole-5-carbaldehyde | 3.19 g | CC=1NC2=CC=C(C=C2C1)C=O | C10H9NO
